US04468392
Preparation of 5-(butylthio)-azacycloheptan-2-one
6.8 g (0.1 mol) of sodium ethylate and 9 g (0.1 mol) of butanethiol are initially introduced into 100 ml of ethanol, and 14.8 g (0.1 mol) of 5-chloro-azacycloheptan-2-one are added at room temperature. After the mixture has been boiled under reflux for 10 hours, the precipitated sodium chloride is filtered off under suction, the mother liquor is evaporated down in vacuo and the residue is distilled.

reactant | sodium ethylate | 0.1 mol, 6.8 g | CC[O-].[Na+]
reactant | butanethiol | 0.1 mol, 9 g | C(CCC)S | C4H10S
reactant | 5-chloro-azacycloheptan-2-one | 0.1 mol, 14.8 g | ClC1CCC(NCC1)=O | C6H10ClNO
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 5-(butylthio)-azacycloheptan-2-one | C(CCC)SC1CCC(NCC1)=O | C10H19NOS
